US07307086B2
(1S,4S)-4-[(tert-Butoxycarbonyl)amino]-1-isopropylcyclopent-2-ene-1-carboxylic Acid
To a solution of methyl (1S,4S)-4-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopent-2-ene-1-carboxylate (18.42 g, 65 mmol) in THF (500 mL), methanol (500 mL) and water (100 mL) was added lithium hydroxide monohydrate (5.00 g, 119 mmol). The mixture was heated to reflux overnight. After 18 hours, TLC indicated a very trace amount of starting material. The organic solvents were removed in vacuo and the aqueous layer was extracted with ether (200 mL) to remove the unreacted starting material. The aqueous layer was acidified with concentrated HCl to pH=4 while being cooled in an ice bath. The resulting solution was extracted with methylene chloride three times. The extracts were dried over MgSO4 and concentrated to give a solid (17 g). The solid was dissolved in hot ethyl acetate (22 mL) and hexanes (550 mL) were added to the solution. The solution was slowly cooled down to room temperature before putting into a freezer reading at −22 to −24° C. After two days, the crystals were removed off and the liquid was evaporated in vacuo to give the desired product as a white foamy solid (9.78 g, 56%). MS calculated for C14H23NO4: (M+H)+270; found 170.1 (M−Boc+H)+.

reactant | methyl (1S,4S)-4-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopent-2-ene-1-carboxylate | 65 mmol, 18.42 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)OC)C(C)C | C15H25NO4
reactant | lithium hydroxide monohydrate | 119 mmol, 5.00 g | O.[OH-].[Li+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | methanol | 500 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | (1S,4S)-4-[(tert-Butoxycarbonyl)amino]-1-isopropylcyclopent-2-ene-1-carboxylic Acid | 17 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)O)C(C)C | C14H23NO4
